US08309721B2
In a 250 ml round-bottomed flask under argon, 391 mg of a suspension of sodium hydride at 60% in petroleum jelly are added at ambient temperature, in 4 stages, in ½ hour, to a solution of 2.0 g of 9H-carbazole-4-carboxylic acid methyl ester obtained according to the preceding stage and of 1.95 g of 2-bromo-4-fluorobenzonitrile in 50 ml of dimethylformamide. The mixture is stirred at ambient temperature for 3 hours. The reaction medium is evaporated to dryness under vacuum and the residue is chromatographed on silica gel (40-63 μm), elution being carried out with a mixture of dichloromethane and cyclohexane (50:50). 3.2 g of 9-(3-bromo-4-cyanophenyl)-9H-carbazole-4-carboxylic acid methyl ester are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium hydride | [H-].[Na+]
reactant | 9H-carbazole-4-carboxylic acid methyl ester | 2.0 g | COC(=O)C1=CC=CC=2NC3=CC=CC=C3C12 | C14H11NO2
reactant | 2-bromo-4-fluorobenzonitrile | 1.95 g | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 9-(3-bromo-4-cyanophenyl)-9H-carbazole-4-carboxylic acid methyl ester | 3.2 g | COC(=O)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C=C1)C#N)Br | C21H13BrN2O2
